US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(2-pyridylthio)butyramide
Following a procedure similar to that described in Example 34, but using N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide (prepared as described in Preparation 2) and 2-mercaptopyridine as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 53% yield.

reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCl)=O | C19H28ClN3O2
reactant | 2-mercaptopyridine | SC1=NC=CC=C1 | C5H5NS
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(2-pyridylthio)butyramide | 53% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCSC1=NC=CC=C1)=O | C24H32N4O2S
